US08034124B2
Step 1: Synthesis of 3-amino-2-[(E)-1,3-thiazol-2-yl-diazenyl]-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one
0.57 g of 2-aminothiazole is solubilized in 3 ml of 6N hydrochloric acid. The medium is cooled to zero degrees, and then a solution of 0.39 g of sodium nitrite in 3 ml of water is added over 3 minutes. The medium is then kept stirring for 10 minutes between 0 and 5° C. A mixture of 1 g of 3-amino-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one hydrochloride, 5 ml of ethanol, 5 ml of water and 1.7 g of sodium acetate is added to the reaction medium.

reactant | 2-aminothiazole | 0.57 g | NC=1SC=CN1 | C3H4N2S
reactant | sodium nitrite | 0.39 g | N(=O)[O-].[Na+]
reactant | 3-amino-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one hydrochloride | 1 g | Cl.NC1=CC(N2N1CCC2)=O
reactant | sodium acetate | 1.7 g | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 6N, 3 ml | Cl | ClH
solvent | water | 3 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-amino-2-[(E)-1,3-thiazol-2-yl-diazenyl]-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one | NC1=C(C(N2N1CCC2)=O)\N=N\C=2SC=CN2 | C9H10N6OS
